US08404859B2
Preparation of 5-formyl-3-methyl-thiophene-2-carboxylic acid methyl ester
A solution of 5-diethoxymethyl-3-methyl-thiophene-2-carboxylic acid methyl ester (4.41 g, 17.1 mmol) in dioxane (20 ml) was cooled to 0° C. (ice bath). 88% formic acid (40 ml) was added in one portion and the mixture was stirred at 0° C. for 5 min and then at rt for 30 min. The mixture was concentrated under reduced pressure to afford the desired product which was not further purified (3.2 g, 100% yield).

reactant | 5-diethoxymethyl-3-methyl-thiophene-2-carboxylic acid methyl ester | 17.1 mmol, 4.41 g | COC(=O)C=1SC(=CC1C)C(OCC)OCC | C12H18O4S
reactant | formic acid | 40 ml | C(=O)O | CH2O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5-formyl-3-methyl-thiophene-2-carboxylic acid methyl ester | 100% yield | COC(=O)C=1SC(=CC1C)C=O | C8H8O3S
